US05998433
b) Synthesis of (Z)-N,N-dimethyl-[6-(4-stilbenesulfonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine
To a solution of 0.155 g (0.424 mmol) of (Z)-6-(4-stilbenesulfonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin in 10 ml of acetic acid, 57 mg (0.64 mmol) of 50% aqueous dimethylamine and 52 mg (0.64 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 0.5 hours. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with aqueous sodium hydroxide and extracted with ethyl acetate 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (ethyl acetate to ethyl acetate/methanol=4/1) to yield the desired product.

reactant | (Z)-6-(4-stilbenesulfonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin | 0.424 mmol, 0.155 g | C1(=CC=C(C=C1)S(=O)(=O)N1CC2=C(CC1)C=CO2)\C=C/C2=CC=CC=C2 | C21H19NO3S
reactant | dimethylamine | 0.64 mmol, 57 mg | CNC | C2H7N
reactant | formaldehyde | 0.64 mmol, 52 mg | C=O | CH2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | (Z)-N,N-dimethyl-[6-(4-stilbenesulfonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | CN(C)CC1=CC2=C(CN(CC2)S(=O)(=O)C2=CC=C(C=C2)\C=C/C2=CC=CC=C2)O1 | C24H26N2O3S
